US04978753
In the manner given in Example 32, 1-carboethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one was heated in pyridine with lithium iodide to give 9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 1-carboethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(=O)(OCC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O | C21H15Cl2N3O3
reactant | lithium iodide | [I-].[Li+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3)Cl)C1 | C18H11Cl2N3O
